US04959361
The title compound was obtained by reacting 4-(2-chlorophenyl)-2-iodo-9-methyl-6H-thieno[3,2-f][1,2,4]triazolo[4,3-a][1,4]diazepine with phenylacetylene under the conditions described in EXAMPLE 37. The product was isolated by chromatography over the 50-fold amount of silica gel using 5% (v/v) of ethanol in methylene chloride for elution. The combined clean fractions were evaporated and the residue was crystallized from ethyl acetate to give colorless crystals of 4-(2-chlorophenyl)-9-methyl-2-(phenylethynyl)-6H-thieno[3,2-f][1,2,4]triazolo[4,3-a][1,4]-diazepine with m.p. 215°-217°.

reactant | 4-(2-chlorophenyl)-2-iodo-9-methyl-6H-thieno[3,2-f][1,2,4]triazolo[4,3-a][1,4]diazepine | ClC1=C(C=CC=C1)C1=NCC=2N(C3=C1C=C(S3)I)C(=NN2)C | C15H10ClIN4S
reactant | phenylacetylene | C1(=CC=CC=C1)C#C | C8H6
reactant | ethanol | C(C)O | C2H6O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 4-(2-chlorophenyl)-9-methyl-2-(phenylethynyl)-6H-thieno[3,2-f][1,2,4]triazolo[4,3-a][1,4]-diazepine | ClC1=C(C=CC=C1)C1=NCC=2N(C3=C1C=C(S3)C#CC3=CC=CC=C3)C(=NN2)C | C23H15ClN4S
